US08420863B2
To a solution of (R,E)-1-chloro-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol (0.67 g, 1.96 mmol) in DMF (20 mL) was added NaI (˜25 mg, 0.16 mmol) and NaN3 (0.64 g, 9.8 mmol) and the reaction mixture was heated at 75° C. overnight. After cooling to room temperature, the mixture was partitioned between EtOAc and water. The combined organics were washed with water, 5% aqueous LiCl and brine, filtered through Na2SO4 and concentrated under reduced pressure to give (R,E)-1-azido-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol. This material was used in the next synthetic step without purification.

reactant | (R,E)-1-chloro-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol | 1.96 mmol, 0.67 g | ClC[C@@H](CC1=CC(=CC=C1)\C=C\C1=C(C=CC=C1Cl)Cl)O | C17H15Cl3O
reactant | NaI | 0.16 mmol, ˜25 mg | [Na+].[I-]
reactant | NaN3 | 9.8 mmol, 0.64 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (R,E)-1-azido-3-(3-(2,6-dichlorostyryl)phenyl)propan-2-ol | N(=[N+]=[N-])C[C@@H](CC1=CC(=CC=C1)\C=C\C1=C(C=CC=C1Cl)Cl)O | C17H15Cl2N3O
